US06600038B1
In a mixed solution of 400 ml of chloroform and 100 ml of dimethylformamide, 20.0 g of 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-4-carboxylic acid was dissolved, and 14.2 g of 1-hydroxybenzotriazole hydrate and 17.7 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added thereto. The reaction mixture was stirred for 40 minutes at room temperature. The reaction solution was ice-cooled, and subsequently, 5.6 ml of 28% aqueous ammonia was added thereto, followed by stirring for 6 hours. The reaction mixture was warmed up to room temperature, and was concentrated under reduced pressure. A 5% aqueous solution of potassium hydrogensulfate was poured thereinto. The reaction mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brines, and was then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=1:2) to yield 5.1 g of 1-tert-butoxycarbonyl-4-carbamoyl-1,2,3,6-tetrahydropyridine as a crystal.

reactant | 1-tert-butoxycarbonyl-1,2,3,6-tetrahydropyridine-4-carboxylic acid | 20.0 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C(=O)O | C11H17NO4
reactant | 1-hydroxybenzotriazole hydrate | 14.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 17.7 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 5.6 ml | N | H3N
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-tert-butoxycarbonyl-4-carbamoyl-1,2,3,6-tetrahydropyridine | 5.1 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C(N)=O | C11H18N2O3
